* Schematics Netlist *



R_Rd         0 Vout  10k  
C_Cl         0 Vout  80p  
V_V2         Vin 0 DC 0V AC 1V 
R_Rs         Vin $N_0001  5k  
C_Cin         0 $N_0001  25p  
G_G1         Vout $N_0001 0 $N_0001 4.3e-3
M_M2         Vout_ $N_0002 VS 0 MbreakN           
V_V5         Vin_ 0 DC 0V AC 1V 
R_R3         Vin_ VS  5k  
C_C3         0 VS  25p  
R_R4         Vout_ $N_0003  10k  
V_V3         $N_0003 0 5V
V_V4         $N_0002 0 3V
C_C4         Vout_ 0  80p  
